US04371720
3-Hydroxycycloheptanone
To a 25° C. solution of 45.9 g. (0.364 mole) of 8-oxabicyclo[5.1.0]octan-2-one in 950 ml. of 10% aqueous tetrahydrofuran was added 39.7 g. (1.47 mmoles) of aluminum amalgam. (The aluminum amalgam was prepared by 15-30 second successive washing of small pieces of aluminum foil with 2 N sodium hydroxide, distilled water, 0.5% mercuric chloride, distilled water, 2 N sodium hydroxide, distilled water, 0.5% mercuric chloride, distilled water, ethanol and ether). The mixture was stirred for 2 hours, then filtered through diatomaceous earth. The filtrate was evaporated on a rotovapor, the residue saturated with solid sodium chloride and extracted with three 500 ml. portions of ether. The ether extract was dried over magnesium sulfate and evaporated to yield 45 g. (97%) of the title compound as an oil.

reactant | 8-oxabicyclo[5.1.0]octan-2-one | 0.364 mole | C12C(CCCCC2O1)=O | C7H10O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-Hydroxycycloheptanone | 97% | OC1CC(CCCC1)=O | C7H12O2
